US05155108
A solution of 6.2 g of 3-tosyloxy-2,2-dimethyl-1-propanesulfonamide and 3.75 g of potassium thiocyanate in 30 ml of dimethylformamide was stirred at 130°-140° C. for 6 hours, and then concentrated to dryness. A mixture of dichloromethane and methanol (9:1)was added to the residue, followed by filtration to remove insoluble material. The filtrate was concentrated and the residue was subjected to a column chromatography, eluting with chloroform-ethyl acetate (2:1). The relevant fractions were concentrated to obtain 0.87 g of 3-thiocyanato-2,2-dimethyl-1-propanesulfonamide as yellow oil.

reactant | 3-tosyloxy-2,2-dimethyl-1-propanesulfonamide | 6.2 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC(CS(=O)(=O)N)(C)C | C12H19NO5S2
reactant | potassium thiocyanate | 3.75 g | [S-]C#N.[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-thiocyanato-2,2-dimethyl-1-propanesulfonamide | 0.87 g | S(C#N)CC(CS(=O)(=O)N)(C)C | C6H12N2O2S2
